US04775671
9.30 g (30.2 mmol) of 1-[(5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl)carbonyl]imidazole are suspended in 60 ml of N,N-dimethylformamide and the suspension is treated with 3.0 g (40.5 mmol) of acetamidoxime. After stirring at 60° for 5.5 hours the mixture is evaporated to dryness, 70 ml of glacial acetic acid are added to the residue and the solution is heated to 120° for 2.5 hours. The solution is then evaporated and the residue is partitioned between methylene chloride and saturated sodium bicarbonate solution. The organic phase is separated, dried over magnesium sulphate and evaporated. By recrystallization of the residue from methylene chloride and ethyl acetate there is obtained 4,5-dihydro-5-methyl-3-(3-methyl-1,2,4-oxadiazol-5-yl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 257°-260°.

reactant | 1-[(5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepin-3-yl)carbonyl]imidazole | 30.2 mmol, 9.30 g | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C(=O)N2C=NC=C2 | C16H13N5O2
reactant | acetamidoxime | 40.5 mmol, 3.0 g | C(C)(N)=NO | C2H6N2O
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 4,5-dihydro-5-methyl-3-(3-methyl-1,2,4-oxadiazol-5-yl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | CN1CC=2N(C3=C(C1=O)C=CC=C3)C=NC2C2=NC(=NO2)C | C15H13N5O2
